US04593104
10.0 parts by weight of 2-chloro-2'-methyl-6'-ethyl-N-(1,2,4-triazol-1-yl-methyl)-acetanilide is dissolved in 50 parts by volume of a mixture of anhydrous dichloromethane and ether (1:1). Dry hydrogen chloride is then passed in, while cooling, for 15 minutes, and a further 55 parts by volume of anhydrous ether is dripped in. The precipitated crystals are suction filtered, and there is obtained 7.5 parts by weight of 2-chloro-2'-methyl-6'-ethyl-N-(1,2,4-triazol-1-yl-methyl)acetanilide hydrochloride; m.p.: 148° C.

reactant | 2-chloro-2'-methyl-6'-ethyl-N-(1,2,4-triazol-1-yl-methyl)-acetanilide | ClCC(=O)N(C1=C(C=CC=C1CC)C)CN1N=CN=C1 | C14H17ClN4O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-chloro-2'-methyl-6'-ethyl-N-(1,2,4-triazol-1-yl-methyl)acetanilide hydrochloride | Cl.ClCC(=O)N(C1=C(C=CC=C1CC)C)CN1N=CN=C1 | InChI=1S/C14H17ClN4O.ClH/c1-3-12-6-4-5-11(2)14(12)19(13(20)7-15)10-18-9-16-8-17-18;/h4-6,8-9H,3,7,10H2,1-2H3;1H
